US07402598B2
3-(4-{[6-({2-Hydroxy-2-[5-hydroxy-6-(hydroxymethyl)pyridin-2-yl]ethyl}amino)hexyl]oxy}butyl)benzenesulfonamide formate
A stirred solution of 2-amino-1-(2-phenyl-4H-[1,3]dioxino[5,4-b]pyridin-6-yl)ethanol (100 mg) (EP220054A2), diisopropylethylamine (0.08 ml) and 3-{4-[(6-bromohexyl)oxy]butyl}benzenesulfonamide (120 mg) in N,N-dimethylformamide (2 ml) under nitrogen was heated to 50° for 18 h. The mixture was cooled to 20° and the solvent evaporated in vacuo. The residue was dissolved in acetic acid (4 ml) and water (2 ml) and was heated to 70° for 18 h. The mixture was cooled to 20°, the solvent evaporated in vacuo and the residue purified by mass-directed autopreparative HPLC to give the title compound (22 mg). LCMS RT=2.23 min, ES+ve 496 (MH)+.

reactant | 2-amino-1-(2-phenyl-4H-[1,3]dioxino[5,4-b]pyridin-6-yl)ethanol | 100 mg | NCC(O)C1=CC=C2C(=N1)COC(O2)C2=CC=CC=C2 | C15H16N2O3
reactant | diisopropylethylamine | 0.08 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-{4-[(6-bromohexyl)oxy]butyl}benzenesulfonamide | 120 mg | BrCCCCCCOCCCCC=1C=C(C=CC1)S(=O)(=O)N | C16H26BrNO3S
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3-(4-{[6-({2-Hydroxy-2-[5-hydroxy-6-(hydroxymethyl)pyridin-2-yl]ethyl}amino)hexyl]oxy}butyl)benzenesulfonamide formate | 22 mg | C(=O)O.OC(CNCCCCCCOCCCCC=1C=C(C=CC1)S(=O)(=O)N)C1=NC(=C(C=C1)O)CO | InChI=1S/C24H37N3O6S.CH2O2/c25-34(31,32)20-10-7-9-19(16-20)8-3-6-15-33-14-5-2-1-4-13-26-17-24(30)21-11-12-23(29)22(18-28)27-21;2-1-3/h7,9-12,16,24,26,28-30H,1-6,8,13-15,17-18H2,(H2,25,31,32);1H,(H,2,3)
